US05093370
Ethyl 8-phenyl-4-octenoate
First, 207 mg of metalic sodium was dissolved in 4 ml of absolute ethanol, and the ethanol was evaporated off to obtain sodium ethoxide powder, to which was then added at once a solution of 4.75 g ethoxycarbonylpropyltriphenylphosphonium bromide in 15 ml of absolute dimethylformamide with stirring. The mixture was stirred for 1.5 hours, and after adding dropwise a solution of 1.04 g 4-phenylbutylaldehyde in 5 ml of absolute dimethylformamide at 5° C. over 5 minutes, stirred overnight at a room temperature. To the reaction mixture were added 100 ml of n-hexane and 30 ml of water and the resulting layers were separated, and the aqueous solution was extracted with 20 ml of n-hexane. The n-hexane layers were combined, washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated under a reduced pressure to obtain an oily residue. The residue was applied to a silica gel column and eluted with n-hexane/ethyl acetate (50:1) to obtain 831 mg of the title compound as a colorless liquid.

reactant | ethoxycarbonylpropyltriphenylphosphonium bromide | 4.75 g | [Br-].C(C)OC(=O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-hexane | 100 ml | CCCCCC | C6H14
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 8-phenyl-4-octenoate | 831 mg | C1(=CC=CC=C1)CCCC=CCCC(=O)OCC | C16H22O2
